US07977358B2
A] Trifluoro-acetic acid N′-(3-trifluoromethyl-phenyl)-hydrazide
A solution of 3-(trifluoromethyl)phenylhydrazine (500 mg, 2.84 mmol) in 10 ml THF was added drop wise (20 min) to an ice cooled solution of trifluoroacetic acid anhydride (0.4 ml, 2.84 mmol) in 5 ml THF. The reaction mixture was stirred 1 h at 0° C., 1 h at room temperature and evaporated. The residue was precipitated from n-heptane to give the title compound as a white solid (385 mg, 50%). MS: 271.2 (M−H−).

reactant | 3-(trifluoromethyl)phenylhydrazine | 2.84 mmol, 500 mg | FC(C=1C=C(C=CC1)NN)(F)F | C7H7F3N2
reactant | trifluoroacetic acid anhydride | 2.84 mmol, 0.4 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Trifluoro-acetic acid N′-(3-trifluoromethyl-phenyl)-hydrazide | 385 mg, 50% | FC(C=1C=C(C=CC1)NNC(C(F)(F)F)=O)(F)F | C9H6F6N2O
